US04423047
2-(Pyrimidin-2-yl)thio-5-bromopyrimidine
2-Chloro-5-bromopyrimidine (10 mmol) was added to a solution of pyrimidine-2-thione (10 mmol) in ethanolic 0.24 M NaOEt (45 ml), the mixture heated under reflux for 2 hours, the solvent distilled off, the residue extracted with chloroform (70 ml), the chloroform solution shaken with 2 M NaOH and with water, the dried (MgSO4) solution evaporated and the residue repeatedly extracted with pet. ether leaving the title compound. Yield 35%, m.p. 178°-180° C. (iPrOH). 1H NMR (CDCl3): δ7.13 (H-5'), 8.60 (H-4', H-6'), 8.66 (H-4, H-6).

reactant | 2-Chloro-5-bromopyrimidine | 10 mmol | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | pyrimidine-2-thione | 10 mmol | N1C(N=CC=C1)=S | C4H4N2S
solvent | NaOEt | 0.24 M, 45 ml | CC[O-].[Na+]
product | 2-(Pyrimidin-2-yl)thio-5-bromopyrimidine | Yield 35% | N1=C(N=CC=C1)SC1=NC=C(C=N1)Br | C8H5BrN4S
